US05843942
A mixture of ethyl 6-(tert-butoxycarbonylamino)-3-pyridazine carboxylate (2.4 g), 1-(benzyloxy)-2-bromomethyl-4-bromobenzene (3.2 g) and sodium hydride (0.5 g of a 50% W/W dispersion in oil) in DMF was stirred for 2 hours. The mixture was diluted with diethyl ether and washed with water. The organic solution was dried (MgSO4), filtered and evaporated. Ethyl 6-[N-(2-benzyloxy-5-bromobenzyl)-N-(tert-butoxycarbonyl)amino]-3-pyridazinecarboxylate was isolated by flash chromatography, eluting with 2% ethyl acetate in CH2Cl2. Yield: 1.7 g.

reactant | ethyl 6-(tert-butoxycarbonylamino)-3-pyridazine carboxylate | 2.4 g | C(C)(C)(C)OC(=O)NC1=CC=C(N=N1)C(=O)OCC | C12H17N3O4
reactant | 1-(benzyloxy)-2-bromomethyl-4-bromobenzene | 3.2 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Br)CBr | C14H12Br2O
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | Ethyl 6-[N-(2-benzyloxy-5-bromobenzyl)-N-(tert-butoxycarbonyl)amino]-3-pyridazinecarboxylate | C(C1=CC=CC=C1)OC1=C(CN(C(=O)OC(C)(C)C)C2=CC=C(N=N2)C(=O)OCC)C=C(C=C1)Br | C26H28BrN3O5
